US05905088
(c) Preparation of 5-bromo-2-[1-(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxymethyl)vinyl]thiophene
A solution of 30% sodium methoxide in methanol (1.65 ml, 8.66 mmol) was added over 8 hours to a mixture of 5-bromo-2-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)acetyl]thiophene (4.3 g, 7.9 mmol) and methyltriphenylphosphine bromide (3.8 g, 10.7 mmol) in THF (45 ml). The mixture was stirred for 12 h at room temperature. The mixture was concentrated in a rotary evaporator under vacuum at 40° C. It was extracted with ethyl ether and washed with water. The organic phase was then dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 8.66 mmol, 1.65 ml | CO | CH4O
reactant | 5-bromo-2-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)acetyl]thiophene | 7.9 mmol, 4.3 g | BrC1=CC=C(S1)C(COC1=CC=2C(CCC(C2C=C1I)(C)C)(C)C)=O | C20H22BrIO2S
reactant | methyltriphenylphosphine bromide | 10.7 mmol, 3.8 g | [Br-].CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 5-bromo-2-[1-(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxymethyl)vinyl]thiophene | BrC1=CC=C(S1)C(=C)COC1=CC=2C(CCC(C2C=C1I)(C)C)(C)C | C21H24BrIOS
